US04891363
A solution of 2.32 ml of methanesulfonyl chloride dissolved in 10 ml of benzene was added dropwise, whilst ice-cooling, to a solution of 4.32 g of 7-(tetrahydropyran-2-yloxy)-1-heptanol and 5.56 ml of triethylamine dissolved in 80 ml of benzene. The mixture was stirred at room temperature for 1 hour, after which it was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure, to give 5.86 g of 7-(tetrahydropyran-2-yloxy)heptyl methanesulfonate, as an oil.

reactant | methanesulfonyl chloride | 2.32 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 7-(tetrahydropyran-2-yloxy)-1-heptanol | 4.32 g | O1C(CCCC1)OCCCCCCCO | C12H24O3
reactant | triethylamine | 5.56 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 7-(tetrahydropyran-2-yloxy)heptyl methanesulfonate | 5.86 g | CS(=O)(=O)OCCCCCCCOC1OCCCC1 | C13H26O5S
